US07250433B2
To a solution of [1-(N-hydroxycarbamimidoyl)-2-isopropyl-cyclopropylmethyl]-carbamic acid tert-butyl ester (5.0 g, 18.5 mmol) in dry THF (185 mL) was added dropwise a solution of carbonyl diimidazole (4.5 g, 27.8 mmol) in dry THF (185 mL). The reaction mixture was heated to reflux for 12 hours and allowed to cool to room temperature. Excess of solvents was removed in vacuo and the residue was partitioned between ether (100 mL) and 1N NaOH (100 mL) solution. The ethereal solution was extracted with 1N NaOH (2×50 mL) and the combined aqueous layers were acidified to pH=3 with 4N HCl solution. The aqueous solution was extracted with EtOAc (3×100 mL) and the combined organic phase was washed with brine and dried over Na2SO4. Removal of excess of solvent, followed by purification of the residue by flash column chromatography using hexanes/EtOAc (1:1) as an eluant gave 3.3 g (61%) of {2-isopropyl-1-(5-oxo-4,5-dihydro-[1,2,4]oxadiazol-3-yl)-cyclopropylmethyl}-carbamic acid tert-butyl ester as a colorless foam: 1H NMR (300 MHz, CD3OD) δ 0.87 (dd, J=5.4, 6.8 Hz, 1H), 1.00 (m, 1H), 1.05 (d, J=5.2. Hz, 3H), 1.07 (d, J=5.1 Hz, 3H), 1.35 (m, 1H), 1.42 (s, 9H), 1.48 (m, 1H), 3.25 (d, J=14.7 Hz, 1H), 3.69 (d, J=14.7 Hz, 1H), 4.92 (s, 1H); 13C NMR (75 MHz, CD3OD) δ 17.6, 23.2, 23.5, 24.7, 29.1, 30.3, 36.3, 41.3, 86.8, 158.7, 162.8, 164.4; MS (ACPI) m/z, 298 [M+H]+.

reactant | [1-(N-hydroxycarbamimidoyl)-2-isopropyl-cyclopropylmethyl]-carbamic acid tert-butyl ester | 18.5 mmol, 5.0 g | C(C)(C)(C)OC(NCC1(C(C1)C(C)C)C(NO)=N)=O | C13H25N3O3
reactant | carbonyl diimidazole | 27.8 mmol, 4.5 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
solvent | THF | 185 mL | C1CCOC1 | C4H8O
solvent | THF | 185 mL | C1CCOC1 | C4H8O
product | {2-isopropyl-1-(5-oxo-4,5-dihydro-[1,2,4]oxadiazol-3-yl)-cyclopropylmethyl}-carbamic acid tert-butyl ester | 3.3 g, 61% | C(C)(C)(C)OC(NCC1(C(C1)C(C)C)C1=NOC(N1)=O)=O | C14H23N3O4
